US06329550B1
17.2 Synthesis of N,N′-di-(3,4-dimethoxyphenethyl)-2-((S)-2-mercapto-3-phenylpropionylamino)malonamide
Combine of N,N′-di-(3,4-dimethoxyphenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide (0.139 g, 0.19 mmol), mercury (II) acetate (0.076 g), and anisole (0.3 mL), and veratrole (0.24 mL) in dichloromethane (10 mL). Cool in an ice bath and degas by repeatedly applying vacuum and filling the vessel with nitrogen. Add trifluoroacetic acid (4 mL). After 3 hours, purge with hydrogen sulfide (gas) for about 10 minutes. Filter and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/1 dichloromethane/ethyl acetate/hexane and then 3/2 dichloromethane/ethyl acetate to give the title compound.

reactant | N,N′-di-(3,4-dimethoxyphenethyl)-2-((S)-2-(p-methoxybenzylmercapto)-3-phenylpropionylamino)malonamide | 0.19 mmol, 0.139 g | COC=1C=C(CCNC(C(C(=O)NCCC2=CC(=C(C=C2)OC)OC)NC([C@H](CC2=CC=CC=C2)SCC2=CC=C(C=C2)OC)=O)=O)C=CC1OC | C40H47N3O8S
reactant | anisole | 0.3 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | veratrole | 0.24 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | dichloromethane ethyl acetate hexane | ClCCl.C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.076 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
solvent | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
product | N,N′-di-(3,4-dimethoxyphenethyl)-2-((S)-2-mercapto-3-phenylpropionylamino)malonamide | COC=1C=C(CCNC(C(C(=O)NCCC2=CC(=C(C=C2)OC)OC)NC([C@H](CC2=CC=CC=C2)S)=O)=O)C=CC1OC | C32H39N3O7S
